US07102009B2
N-(3-((((2R)-1-Methyl-2-pyrrolidinyl)methyl)oxy)-4-(trifluoromethyl)phenyl)-2-((1-oxo-2,3-dihydro-1H-isoindol-4-yl)amino)-3-pyridinecarboxamide
2-Fluoro-N-[3-(1-methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-nicotinamide (402 mg, 1.0116 mmol) was dissolved in tert-butanol (1 mL). To this mix was added TFA (115 mg, 1.0116 mmol) and 4-amino-2,3-dihydro-isoindol-1-one (450 mg, 3.035 mmol). The mix was heated for 6 h at 150° C., allowing the solvent to boil off. The reaction was cooled to RT, dissolved into 1N aqueous HCl, basified to pH 10 with solid NaOH, extracted twice with EtOAc, and dried over Na2SO4. The product precipitated out of solution along with a minor by-product. The EtOAc was filtered off. The crude product was dissolved in MeOH and filtered. The MeOH solution was concentrated down and eluted on silica gel column to yield the titled compound as a light yellow solid. MS: C27H26F3N5O3—525.528; M+H 526.1

reactant | 2-Fluoro-N-[3-(1-methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-nicotinamide | 1.0116 mmol, 402 mg | FC1=C(C(=O)NC2=CC(=C(C=C2)C(F)(F)F)OCC2N(CCC2)C)C=CC=N1 | C19H19F4N3O2
reactant | TFA | 1.0116 mmol, 115 mg | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 4-amino-2,3-dihydro-isoindol-1-one | 3.035 mmol, 450 mg | NC1=C2CNC(C2=CC=C1)=O | C8H8N2O
reactant | HCl | 1N | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
product | N-(3-((((2R)-1-Methyl-2-pyrrolidinyl)methyl)oxy)-4-(trifluoromethyl)phenyl)-2-((1-oxo-2,3-dihydro-1H-isoindol-4-yl)amino)-3-pyridinecarboxamide | CN1[C@H](CCC1)COC=1C=C(C=CC1C(F)(F)F)NC(=O)C=1C(=NC=CC1)NC1=C2CNC(C2=CC=C1)=O | C27H26F3N5O3
